US07138533B2
8-(3-{1-[2-(2,6-Dichlorophenyl)ethyl]-4-piperidinyl}propanoyl)-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride
Using 8-[3-(4-piperidinyl)propanoyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one (600 mg) and 2-(2,6-dichlorophenyl)ethyl methanesulfonate (545 mg) according to the same method as that of Example 81, the title compound (272 mg) was obtained as colorless crystals having a melting point of 226 to 229° C.

reactant | 8-[3-(4-piperidinyl)propanoyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 600 mg | N1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C19H24N2O2
reactant | 2-(2,6-dichlorophenyl)ethyl methanesulfonate | 545 mg | CS(=O)(=O)OCCC1=C(C=CC=C1Cl)Cl | C9H10Cl2O3S
product | 8-(3-{1-[2-(2,6-Dichlorophenyl)ethyl]-4-piperidinyl}propanoyl)-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride | 272 mg | Cl.ClC1=C(C(=CC=C1)Cl)CCN1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | InChI=1S/C27H30Cl2N2O2.ClH/c28-23-2-1-3-24(29)22(23)11-14-30-12-8-18(9-13-30)4-6-25(32)21-16-19-5-7-26(33)31-15-10-20(17-21)27(19)31;/h1-3,16-18H,4-15H2;1H
